US05066640
A solution of 324.0 g (2.00 moles) of o-methylcinnamic acid, 428.0 g (3.5 moles) of 2-phenylethanol, 10.0 g (0.058 moles) of p-toluenesulfonic acid and 1,200 ml of toluene was refluxed under a water separator. After 15 hours, the calculated amount of water had separated off. The reaction solution was washed first with water and then with saturated sodium bicarbonate solution. The combined washwater was extracted once with ether, and the ether phase was combined with the organic phase. The combined, organic phases were fractionated over a 10 cm Vigreux column. The solvents were separated off under atmospheric pressure and in a vacuum from a water pump. The Vigreux column was replaced by a column head and the product was distilled under 0.01 mm Hg (b.p. 154°-155° C./0.01 mm Hg). 394.0 g of phenylethyl o-methylcinnamate of melting point 52° to 53° C. were obtained.

reactant | o-methylcinnamic acid | 2.00 moles, 324.0 g | CC1=C(C=CC(=O)O)C=CC=C1 | C10H10O2
reactant | 2-phenylethanol | 3.5 moles, 428.0 g | C1(=CC=CC=C1)CCO | C8H10O
catalyst | p-toluenesulfonic acid | 0.058 moles, 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1,200 ml | C1(=CC=CC=C1)C | C7H8
product | phenylethyl o-methylcinnamate | 394.0 g | CC1=C(C=CC(=O)OCCC2=CC=CC=C2)C=CC=C1 | C18H18O2
